US04939300
N,N'-Bis(4-anilinophenyl)formamidine
The procedure of Example 1 is repeated using 10.0 g (0.054 mol) of N-phenyl-1,4-phenylenediamine and 3.3 g (0.22 mol) of triethyl orthoformate. The residue is slurried with ethanol to give 7.4 g (83%) of a brown solid, mp. 173°-175° C.

reactant | N-phenyl-1,4-phenylenediamine | 0.054 mol, 10.0 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | triethyl orthoformate | 0.22 mol, 3.3 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | C(C)O | C2H6O
product | N,N'-Bis(4-anilinophenyl)formamidine | 7.4 g, 83% | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC=NC1=CC=C(C=C1)NC1=CC=CC=C1 | C25H22N4
